US07368582B2
The N-(4-chlorobenzyl)-2-(2,2-dimethyl-1a,7b-dihydro-2H-oxireno[c]chromen-6-yl) acetamide obtained above was immediately poured into a mixture of so much ethanol and 25%-strength aqueous ammonia solution (6:5 v/v) that a 0.2 M solution of the compound was obtained, and the resulting solution was stirred for 16 hours at 50° C. Then the solution was allowed to cool to room temperature, and the solvent was largely evaporated at reduced pressure. The remaining residue was chromatographed on silica gel (mobile phase: gradient dichloromethane/methanol/25%-strength aqueous ammonia solution 97.5:2:0.5 to 90:9.5:0.5 v/v/v). Drying of the product fractions yielded 7.3 g 2-(4-amino-3-hydroxy-2,2-dimethyl-3,4-dihydro-2H-chromen-6-yl)-N-4-chlorobenzyl acetamide, which was used without further purification for the subsequent reaction. The other regioisomer, 2-[3-amino-4-hydroxy-2,2-dimethylchromen-6-yl]-N-4-chlorobenzyl acetamide, was not observed.

reactant | N-(4-chlorobenzyl)-2-(2,2-dimethyl-1a,7b-dihydro-2H-oxireno[c]chromen-6-yl) acetamide | ClC1=CC=C(CNC(CC2=CC=3C4C(C(OC3C=C2)(C)C)O4)=O)C=C1 | C20H20ClNO3
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-amino-3-hydroxy-2,2-dimethyl-3,4-dihydro-2H-chromen-6-yl)-N-4-chlorobenzyl acetamide | 7.3 g | NC1C(C(OC2=CC=C(C=C12)CC(=O)NCC1=CC=C(C=C1)Cl)(C)C)O | C20H23ClN2O3
